### PR TITLE
[Merged by Bors] - refactor: allow non-unital normed rings in `HasSummableGeomSeries`

### PR DESCRIPTION
**Pull request by j-loreaux**
This PR changes the field of `HasSummableGeomSeries` to a version which is equivalent for `NormedRing`s, but which also makes sense and is useful in `NonUnitalNormedRing`s. In particular, the previous definition was, for `x : R` and `‖x‖ < 1`: `Summable (fun n : ℕ ↦ x ^ n)`, which doesn't work for non-unital rings since there is no `Pow R ℕ` instance. We change the field to `Summable (fun n : ℕ ↦ (· * x)^[n] x)` (i.e., `fun n ↦ x ^ (n + 1)`).

We are forced to use iterated multiplication because Mathlib currently doesn't define any `Pow G ℕ+` instance for semigroups `G`, however, when it eventually does, we can switch this definition easily to make use of that instead.

In addition to this change, we show the `HasSummableGeomSeries` is equivalent (in non-unital normed rings) to every element of the open unit ball being quasiregular, and consequently (in normed rings) to every element `x` of the open unit ball satisfying `IsUnit (1 - x)`.

These changes are used in other PRs (see #42779 and #42782):

1. to show that `HasSummableGeomSeries` is preserved under `A ↦ WithLp 1 (Unitization 𝕜 A)`
2. to provide some mild generalization of results on the quasispectrum in non-unital Banach algebras
3. remove some `NormOneClass` assumptions for some results on the spectrum in unital Banach algebras 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

**Comment by j-loreaux** [comment]
Note, the big argument here (for `summable_geom_series_iff_isQuasiregular` is basically the same idea, modulo a few details, as the argument that appears in the PR for `HasSummableGeomSeries (WithLp 1 (Unitization 𝕜 A))`. With this PR, we'll be able to simplify the argument in the other one to only a few lines.

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 1]
```diff
@@ -267,46 +268,160 @@ theorem AbsoluteValue.tendsto_div_one_add_pow_nhds_zero {v : AbsoluteValue R S}
...
+Due to the fact that Mathlib has no `Pow G ℕ+` instance for semigroups, this is currently stated
+using iterated multiplication. Once semigroups implement this bundled `Pow` instance, then we can
+switch the statements to use that instead, and improve the proofs. -/
+@[mk_iff hasSummableGeomSeries_iff_summable_iterate_mul]
+class HasSummableGeomSeries (K : Type*) [NonUnitalNormedRing K] : Prop where
+  summable_geometric_of_norm_lt_one : ∀ (ξ : K), ‖ξ‖ < 1 → Summable ((· * ξ)^[·] ξ)
+
+private lemma _root_.pow_succ_eq_iterate_mul {M : Type*} [Monoid M] (x : M) (n : ℕ) :
+    x ^ (n + 1) = (· * x)^[n] x := by
+  induction n <;> simp [_root_.pow_succ', mul_assoc]
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]:
```suggestion
  simp [add_comm n, pow_add]
```

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 2]
```diff
@@ -267,46 +268,160 @@ theorem AbsoluteValue.tendsto_div_one_add_pow_nhds_zero {v : AbsoluteValue R S}
...
-    {x : K} (h : ‖x‖ < 1) : Summable (fun n ↦ x ^ n) :=
+Due to the fact that Mathlib has no `Pow G ℕ+` instance for semigroups, this is currently stated
+using iterated multiplication. Once semigroups implement this bundled `Pow` instance, then we can
+switch the statements to use that instead, and improve the proofs. -/
+@[mk_iff hasSummableGeomSeries_iff_summable_iterate_mul]
+class HasSummableGeomSeries (K : Type*) [NonUnitalNormedRing K] : Prop where
+  summable_geometric_of_norm_lt_one : ∀ (ξ : K), ‖ξ‖ < 1 → Summable ((· * ξ)^[·] ξ)
+
+private lemma _root_.pow_succ_eq_iterate_mul {M : Type*} [Monoid M] (x : M) (n : ℕ) :
+    x ^ (n + 1) = (· * x)^[n] x := by
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]: maybe make public and call it `mul_right_iterate_apply_self` (and reverse it)?
(and if you do, move it next to [mul_right_iterate_apply](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Group/Basic.html#mul_right_iterate_apply)?)

**Review by themathqueen — COMMENTED** [review]
I'll review this properly tomorrow :)

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 3]
```diff
@@ -267,46 +268,160 @@ theorem AbsoluteValue.tendsto_div_one_add_pow_nhds_zero {v : AbsoluteValue R S}
...
+normed ring satisfies the axiom `‖1‖ = 1`. -/
+theorem tsum_iterate_mul_le_of_norm_lt_one (x : R) (h : ‖x‖ < 1) :
+    ‖∑' n : ℕ, (· * x)^[n] x‖ ≤ ‖x‖ / (1 - ‖x‖) := by
+  by_cases hx : Summable ((· * x)^[·] x)
+  · refine tsum_of_norm_bounded (g := ((· * ‖x‖)^[·] ‖x‖)) ?_ ?_
+    · simp_rw [← pow_succ_eq_iterate_mul, _root_.pow_succ']
+      simpa [div_eq_mul_inv] using (hasSum_geometric_of_lt_one (norm_nonneg x) h).mul_left ‖x‖
+    · simpa [← pow_succ_eq_iterate_mul] using norm_iterate_mul_le x
+  · simp only [tsum_eq_zero_of_not_summable hx, norm_zero]
+    positivity [sub_pos.mpr h]
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]:
```suggestion
  refine tsum_of_norm_bounded ?_ (norm_iterate_mul_le x)
  simpa [_root_.pow_succ', div_eq_mul_inv] using
    (hasSum_geometric_of_lt_one (norm_nonneg x) h).mul_left _
```

**Review by themathqueen — COMMENTED** [review]
~~maybe move the quasiregular stuff somewhere else to reduce the import increase?~~
actually, nevermind it's just a small increase, I thought it was much larger because of the label

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 4]
```diff
@@ -267,46 +268,160 @@ theorem AbsoluteValue.tendsto_div_one_add_pow_nhds_zero {v : AbsoluteValue R S}
...
+        simpa using (tendsto_pow_atTop_nhds_zero_of_lt_one (norm_nonneg x) h).mul_const ‖s‖
+    intro n
+    induction n with
+    | zero => simp
+    | succ n ih =>
+      rw [key n, pow_succ, mul_comm (‖x‖ ^ n), mul_assoc]
+      exact (norm_mul_le _ _).trans (by gcongr)
+
+/-- A non-unital normed ring `R` has summable geometric series if and only if every element of
+in the unit ball is quasiregular. -/
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]:
```suggestion
in the open unit ball is quasiregular. -/
```

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 5]
```diff
@@ -267,46 +268,160 @@ theorem AbsoluteValue.tendsto_div_one_add_pow_nhds_zero {v : AbsoluteValue R S}
...
 variable {R : Type*} [NormedRing R]
 
+lemma hasSummableGeomSeries_iff_summable_pow :
+    HasSummableGeomSeries R ↔ ∀ ⦃ξ : R⦄, ‖ξ‖ < 1 → Summable (fun n ↦ ξ ^ n) := by
+  simp only [hasSummableGeomSeries_iff_summable_iterate_mul, ← pow_succ_eq_iterate_mul,
+    summable_nat_add_iff 1]
+
+alias ⟨_, HasSummableGeomSeries.of_summable_pow⟩ := hasSummableGeomSeries_iff_summable_pow
+
+/-- If `‖x‖ < 1` and `x` lies in a non-unital normed ring, then `∑' n : ℕ, x ^ n` is summable
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]:
```suggestion
/-- If `‖x‖ < 1` and `x` lies in a normed ring, then `∑' n : ℕ, x ^ n` is summable
```

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 6]
```diff
@@ -267,46 +268,155 @@ theorem AbsoluteValue.tendsto_div_one_add_pow_nhds_zero {v : AbsoluteValue R S}
...
+  induction n with
+  | zero => simp
+  | succ n ih => rw [iterate_succ_apply' _ n, ← mul_assoc, ← ih, iterate_succ_apply']
+
+section NonUnitalNormedRing
+
+variable {R : Type*} [NonUnitalNormedRing R]
+
+-- this lemma should be removed (and unnecessary) once we have a `Pow G ℕ+` instance for semigroups
+private lemma _root_.norm_iterate_mul_le {R : Type*} [NonUnitalNormedRing R] (x : R) (n : ℕ) :
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]: already declared right above it
```suggestion
private lemma _root_.norm_iterate_mul_le (x : R) (n : ℕ) :
```

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 7]
```diff
@@ -267,46 +268,155 @@ theorem AbsoluteValue.tendsto_div_one_add_pow_nhds_zero {v : AbsoluteValue R S}
...
+lemma hasSummableGeomSeries_iff_summable_pow :
+    HasSummableGeomSeries R ↔ ∀ ⦃ξ : R⦄, ‖ξ‖ < 1 → Summable (fun n ↦ ξ ^ n) := by
+  simp only [hasSummableGeomSeries_iff_summable_iterate_mul, mul_right_iterate_apply_self,
+    summable_nat_add_iff 1]
+
+alias ⟨_, HasSummableGeomSeries.of_summable_pow⟩ := hasSummableGeomSeries_iff_summable_pow
+
+/-- If `‖x‖ < 1` and `x` lies in a normed ring, then `∑' n : ℕ, x ^ n` is summable
+if and only if `1 - x` is invertible. -/
+theorem hasSummableGeomSeries_iff_isUnit {R : Type*} [NormedRing R] :
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]: already declared above
```suggestion
theorem hasSummableGeomSeries_iff_isUnit :
```

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 8]
```diff
@@ -267,46 +268,155 @@ theorem AbsoluteValue.tendsto_div_one_add_pow_nhds_zero {v : AbsoluteValue R S}
...
+variable {R : Type*} [NonUnitalNormedRing R]
+
+-- this lemma should be removed (and unnecessary) once we have a `Pow G ℕ+` instance for semigroups
+private lemma _root_.norm_iterate_mul_le {R : Type*} [NonUnitalNormedRing R] (x : R) (n : ℕ) :
+    ‖(· * x)^[n] x‖ ≤ ‖x‖ ^ (n + 1) := by
+  induction n with
+  | zero => simp
+  | succ n ih => grw [iterate_succ_apply', norm_mul_le, ih, ← pow_succ]
+
+lemma summable_geometric_iterate_of_norm_lt_one [HasSummableGeomSeries R] {x : R} (h : ‖x‖ < 1) :
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]: can we rename this to something better? like `summable_iterate_mul_of_norm_lt_one` or something?

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 9]
```diff
@@ -267,46 +268,155 @@ theorem AbsoluteValue.tendsto_div_one_add_pow_nhds_zero {v : AbsoluteValue R S}
...
+instance [CompleteSpace R] : HasSummableGeomSeries R where
+  summable_geometric_of_norm_lt_one x hx := by
+    have h1 : Summable fun n : ℕ ↦ ‖x‖ ^ (n + 1) :=
+      summable_nat_add_iff 1 |>.mpr <| summable_geometric_of_lt_one (norm_nonneg _) hx
+    refine h1.of_norm_bounded_eventually_nat <| .of_forall <| norm_iterate_mul_le x
+
+protected theorem Summable.add_geom_series_mul_self {x : R} (h : Summable ((· * x)^[·] x)) :
+    x + (∑' i : ℕ, (· * x)^[i] x) * x = (∑' i : ℕ, (· * x)^[i] x) := by
+  rw [← h.tsum_mul_right, h.tsum_eq_zero_add]
+  simp [Function.iterate_succ_apply']
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]: probably not needed? isn't `Function` opened here?
```suggestion
  simp [iterate_succ_apply']
```

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 10]
```diff
@@ -267,46 +268,155 @@ theorem AbsoluteValue.tendsto_div_one_add_pow_nhds_zero {v : AbsoluteValue R S}
...
+    induction n with
+    | zero => simp
+    | succ n ih =>
+      rw [key n, pow_succ, mul_comm (‖x‖ ^ n), mul_assoc]
+      exact (norm_mul_le _ _).trans (by gcongr)
+
+/-- A non-unital normed ring `R` has summable geometric series if and only if every element of
+in the open unit ball is quasiregular. -/
+theorem hasSummableGeomSeries_iff_isQuasiregular :
+    HasSummableGeomSeries R ↔ ∀ ⦃x : R⦄, ‖x‖ < 1 → IsQuasiregular x := by
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecificLimits/Normed.lean:365]: can you add a `isQuasiregular_of_norm_lt_one` alias?

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 11]
```diff
@@ -267,46 +268,155 @@ theorem AbsoluteValue.tendsto_div_one_add_pow_nhds_zero {v : AbsoluteValue R S}
...
+    HasSummableGeomSeries R ↔ ∀ ⦃ξ : R⦄, ‖ξ‖ < 1 → Summable (fun n ↦ ξ ^ n) := by
+  simp only [hasSummableGeomSeries_iff_summable_iterate_mul, mul_right_iterate_apply_self,
+    summable_nat_add_iff 1]
+
+alias ⟨_, HasSummableGeomSeries.of_summable_pow⟩ := hasSummableGeomSeries_iff_summable_pow
+
+/-- If `‖x‖ < 1` and `x` lies in a normed ring, then `∑' n : ℕ, x ^ n` is summable
+if and only if `1 - x` is invertible. -/
+theorem hasSummableGeomSeries_iff_isUnit {R : Type*} [NormedRing R] :
+    HasSummableGeomSeries R ↔ ∀ ⦃x : R⦄, ‖x‖ < 1 → IsUnit (1 - x) := by
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecificLimits/Normed.lean]: maybe also a `isUnit_one_sub_of_norm_lt_one` alias?

**Review by themathqueen — COMMENTED** [review]
Can you add a brief description?

Thanks!

maintainer delegate

File: Mathlib/Analysis/SpecificLimits/Normed.lean (hunk 11 above)
Comment (j-loreaux) [reply Mathlib/Analysis/SpecificLimits/Normed.lean]: I was originally *not* going to provide this because we have `Units.oneSub` (because you could do `(Units.oneSub x hx).isUnit`), but then decided it's worth it for convenience, and added a reference in the docstring to the bundled `Units.oneSub`.

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 12]
```diff
@@ -267,46 +268,164 @@ theorem AbsoluteValue.tendsto_div_one_add_pow_nhds_zero {v : AbsoluteValue R S}
...
+
+-- this lemma should be removed (and unnecessary) once we have a `Pow G ℕ+` instance for semigroups
+private lemma _root_.norm_iterate_mul_le (x : R) (n : ℕ) :
+    ‖(· * x)^[n] x‖ ≤ ‖x‖ ^ (n + 1) := by
+  induction n with
+  | zero => simp
+  | succ n ih => grw [iterate_succ_apply', norm_mul_le, ih, ← pow_succ]
+
+lemma summable_iterate_mul_of_norm_lt_one [HasSummableGeomSeries R] {x : R} (h : ‖x‖ < 1) :
+    Summable ((· * x)^[·] x) :=
```
Comment (dupuisf) [inline Mathlib/Analysis/SpecificLimits/Normed.lean:302]: Shouldn't that be the name of the field in the definition of the class? And then we could keep the original statement for unital rings as a separate lemma with the original name.

File: Mathlib/Analysis/SpecificLimits/Normed.lean [hunk 13]
```diff
@@ -267,46 +268,164 @@ theorem AbsoluteValue.tendsto_div_one_add_pow_nhds_zero {v : AbsoluteValue R S}
...
+    positivity [sub_pos.mpr h, one_le_norm_one R]
 
 variable [HasSummableGeomSeries R]
 
+/-- The element `1 - x` also available bundled as a term of `Rˣ` with inverse `∑' n : ℕ, x ^ n`
+in `Units.oneSub`. -/
+theorem IsUnit.one_sub_of_norm_lt_one {x : R} (hx : ‖x‖ < 1) : IsUnit (1 - x) :=
+  hasSummableGeomSeries_iff_isUnit.mp inferInstance hx
+
+lemma summable_geometric_of_norm_lt_one {x : R} (h : ‖x‖ < 1) : Summable (fun n ↦ x ^ n) :=
```
Comment (themathqueen) [inline Mathlib/Analysis/SpecificLimits/Normed.lean:426]: maybe also rename this to `summable_pow_of_norm_lt_one` instead of geometric?

File: Mathlib/Analysis/SpecificLimits/Normed.lean (hunk 12 above)
Comment (j-loreaux) [reply Mathlib/Analysis/SpecificLimits/Normed.lean:302]: 1. I'd prefer not to rename the field, because then it means we should just rename it again (to avoid `iterate_mul`) when we have `PNat` powers in semigroups.
2. We can still keep (and I *did* still keep, see further down the diff) the same statement for unital rings with the same name.
3. This doesn't cause a name clash because no one is ever opening the `HasSummableGeomSeries` namespace, and the field is technically called `HasSummableGeomSeries.summable_geometric_of_norm_lt_one`

File: Mathlib/Analysis/SpecificLimits/Normed.lean (hunk 13 above)
Comment (j-loreaux) [reply Mathlib/Analysis/SpecificLimits/Normed.lean:426]: I'd prefer not to, as this name already existed, so I would have to add a deprecation and it doesn't seem worth it to me. Right now this matches the pre-existing statement on master.

File: Mathlib/Analysis/SpecificLimits/Normed.lean (hunk 12 above)
Comment (j-loreaux) [reply Mathlib/Analysis/SpecificLimits/Normed.lean:302]: @dupuisf thoughts?

**Review by jcommelin — COMMENTED** [review]
Thanks :tada:

bors merge
